US07846956B2
2.20 g of [5-(1H-pyrrol-1-yl)-1-t-butyl-1H-pyrazol-4-yl]methanol was dissolved in 20 ml of dichloromethane, and 0.73 ml of thionyl chloride was added. The mixture was stirred at room temperature for 1.5 hours and then concentrated under reduced pressure. After aqueous saturated sodium hydrogen carbonate was added, the residue was extracted with ethyl acetate. The organic layer was dried over anhydrous magnesium sulfate, filtered and then concentrated under reduced pressure. The residue was subjected to silica gel column chromatography to obtain 2.35 g of 4-(chloromethyl)-5-(1H-pyrrol-1-yl)-1-t-butyl-1H-pyrazole.

reactant | [5-(1H-pyrrol-1-yl)-1-t-butyl-1H-pyrazol-4-yl]methanol | 2.20 g | N1(C=CC=C1)C1=C(C=NN1C(C)(C)C)CO | C12H17N3O
reactant | thionyl chloride | 0.73 ml | S(=O)(Cl)Cl | Cl2OS
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | 4-(chloromethyl)-5-(1H-pyrrol-1-yl)-1-t-butyl-1H-pyrazole | 2.35 g | ClCC=1C=NN(C1N1C=CC=C1)C(C)(C)C | C12H16ClN3
